US07615648B2
A solution of 3,5-dichlorobenzaldehyde (0.79 g, 4.5 mmol, 3 eq) in 1,2-dichloroethane (2 ml) is added to a solution of tert-butyl (2S)-2-[(isobutylamino)methyl]pyrrolidine-1-carboxylate (0.38 g, 1.5 mmol, 1 eq) in 1,2-dichloroethane (8 ml) followed by a solution of sodium triacetoxyborohydride (0.95 g, 4.5 mmol, 3 eq) in DMF (2 ml). After 16 hrs water (5 ml) followed by 2N aqueous sodium hydroxide (5 ml) is added. The biphasic mixture is passed through a hydrophobic frit to separate the organic layer. Methanol is added to the organic layer and the solution is loaded onto a SCX-2 (10 g) column. The column is washed with methanol (50 ml) and then the basic material is eluted with 2M ammonia in methanol (50 ml). The solvent is removed in vacuo to give the tert-butyl (2S)-2-{[(3,5-dichlorobenzyl)(isobutyl)amino]methyl}pyrrolidine-1-carboxylate (0.61 g, 98%). LCMS: Rt=4.17 (6 min method) [M+H]=415.4.

reactant | 3,5-dichlorobenzaldehyde | 4.5 mmol, 0.79 g, 3 eq | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | tert-butyl (2S)-2-[(isobutylamino)methyl]pyrrolidine-1-carboxylate | 1.5 mmol, 0.38 g, 1 eq | C(C(C)C)NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C14H28N2O2
reactant | sodium triacetoxyborohydride | 4.5 mmol, 0.95 g, 3 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 8 ml | ClCCCl | C2H4Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
product | tert-butyl (2S)-2-{[(3,5-dichlorobenzyl)(isobutyl)amino]methyl}pyrrolidine-1-carboxylate | 0.61 g, 98% | ClC=1C=C(CN(CC(C)C)C[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=C(C1)Cl | C21H32Cl2N2O2
